US07173024B2
BOC-2(S)-isobutanoylpyrrolidine
30.1 ml (60.2 mmol) 2 M isopropylmagnesium chloride (diethyl ether) and 4.0 g (20.1 mmol) BOC-L-prolinal were allowed to react at −80° C. for 30 min according to procedure F. Yield of the crude product 4.31 g. The product was purified with a silica column using 16% ethyl acetate in petroleum ether as eluent. Yield 1.84 g (7.6 mmol, 38%). The product was oxidized to the corresponding ketone according to procedure G. Yield of crude product 1.59 g. The product was purified with a silica column using 16% ethyl acetate in petroleum ether as eluent. Yield 1.15 g (4.8 mmol, 63%).

reactant | isopropylmagnesium chloride | 60.2 mmol, 2 M, 30.1 ml | C(C)(C)[Mg]Cl
reactant | BOC-L-prolinal | 20.1 mmol, 4.0 g | C(=O)(OC(C)(C)C)N1[C@H](C=O)CCC1 | C10H17NO3
product | BOC-2(S)-isobutanoylpyrrolidine | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C(C(C)C)=O | C13H23NO3
